US07196104B2
Preparation BH: Ethyl 2-(2-methoxyphenyl)-thiazole-4-carboxylate
A suspension of 2-methoxyphenyl boronic acid (0.25 g, 1.65 mmol), ethyl 2-bromothiazole-4-carboxylate (0.33 g, 1.4 mmol), PdCl2(dppf)2 (0.11 g, 0.14 mmol) and 2M Na2CO3(aq) (2 mL) in DME (10 mL) was heated at reflux for 20 h, cooled to RT, filtered, concentrated by rotary evaporation and purified on silica gel (6:1 hexanes/EtOAc and 4:1 hexanes/EtOAc) to afford the title compound as a light-brown oil. EI-MS m/z 264 (M+H).

reactant | 2-methoxyphenyl boronic acid | 1.65 mmol, 0.25 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | ethyl 2-bromothiazole-4-carboxylate | 1.4 mmol, 0.33 g | BrC=1SC=C(N1)C(=O)OCC | C6H6BrNO2S
reactant | Na2CO3 | 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf)2 | 0.14 mmol, 0.11 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Ethyl 2-(2-methoxyphenyl)-thiazole-4-carboxylate | COC1=C(C=CC=C1)C=1SC=C(N1)C(=O)OCC | C13H13NO3S
